Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Codeine / Erythromycin Propionate / Flagyl / 
Morphine / Bactrim DS
 
Attending: ___.
 
Chief Complaint:
"RLQ pain and Right flank pain."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of hypertension and s/p appendectomy who 
presents with RLQ pain and right flank pain.
.
RLQ pain developed out of nowhere on night of ___. The pain 
was "throbbing" in quality, constant, ___ and radiated to the 
back. Pain was worsened by sitting down and laying down and 
relieved by pain medication. She also reported a decreased 
appetite but no nausea, vomiting or diarrhea. No sick contacts. 
No history of kidney stones. A few days before, she noted that 
she was urinating with increasing frequency, up to 7 times in 
one hour. There was no pain on urination or urgency. 
.
The patient's pain and urinary symptoms continued. She presented 
to ___ ED on ___. Abd/Pelvis CT was normal. Patient's white 
count was normal and UA was negative for bacteria but had 
minimal pyuria (8 WBCs). Patient was sent home.
.
That night she developed right flank pain in addition to RLQ 
pain. 
She returned to the ___ ED on ___ on the advice of her PCP. 
Renal US was negative. Her WBC was elevated to 11.2. UA showed 
hematuria (11 RBC) and pyuria (72 WBC). Urine culture showed 
pan-sensitive Klebsiella. She was started on a six day course of 
Cipro 500 mg q12h and Percocet. She was admitted to Medicine for 
pain control and discharged on ___ with a normal white count 
of 9.7. 
.
After discharge, the patient noted that pain control was not 
enough. She used 5 tabs of percocet and 3 tabs of methadone a 
day, but still had ___ pain. 
. 
In the ED, initial vitals were initially T 96.6, HR 86, BP 
115/83, RR 18 satting 98% on RA.  Labs were significant for 
leukocytosis of 15.4 with 77.3 percent PMNs, UA significant for 
moderate ___, 100 Protein, 5 RBCs, 24 WBCs and few bacteria.  CMP 
was all within normal limits.  No imaging was performed.  
Admitted for pain control.  VS prior to transfer were 130/90 63 
18 sat 99% ra temp 97.7.  No antibiotics dosed in the ED.
.
Currently, vitals on the floor were 98.3 119/80 76 18 97%RA. the 
patient is still reporting RLQ pain and right flank pain. She 
denies any CP, SOB, n/v. 
.
Of note, the patient presented to her PCP ___ ___ with a 4 
day history of abdominal pain and "thin and yellow" but 
non-odorous and non-pruritic vaginal discharge. Cervical motion 
tenderness was present. Wet prep revealed white blood cells but 
no yeast, trichomonas or clue cells. She was treated with 2g 
Flagyl and 1g azithromycin. She took all of her medications in 
one day (8 pills she thinks). Labs returned negative for 
Chlamydia/Gonorrhea PCR. She has not had vaginal discharge 
since. 

 
Past Medical History:
#s/p Appendectomy in ___.
#Hypertension. On HCTZ and Verapamil. 
#Chronic right foot pain. Possible plantar fascitis. Patient was 
advised to treat with ice packs and Motrin. Patient is 
prescribed for Methadone PO 5mg BID for pain but says that she 
uses only ___ tabs a month. She does not know when she started 
Methadone, which was prescribed by her PCP ___.
#Chronic right shoulder pain. She was evaluated for right 
shoulder pain on ___ by Ortho. They believed it resulted from 
impingement syndrome and arthritis. She refused steroid 
injections.
#Chronic left wrist pain. Evaluated as De Quervain tenosynovitis 
on exam in ___ but declined cortisone injection.
#GERD
#Asthma. Last flare was seven months ago. She does not recall 
when she was last hospitalized for the condition. Asthma induced 
by allergens and not linked to cold, exercise or aspirin.
#Depression/Mood disorder. Major depressive disorder per 
psychiatry evaluation in ___. Note of several psychosocial 
stressors and recent possible abuse by boyfriend in ___.
#?Atrial Fibrillation. In ___, per records. Patient does not 
recall having episodes.
#Smoking cessation. On Nicotine gum.  PCP expressed concerns 
months before about Chantix contributing to depression.  
#Carpal tunnel on right wrist. Release surgery on ___. 
#Vulvar Prurigo Nodularis. Multiple itchy lesions on vulva that 
she has had for years. Treated with Betamethasone and Mupiricin.

 
Social History:
___
Family History:
Mother died from lung cancer. Father is alive and has 
hypertension. Heart disease in grandparents. 

 
Physical Exam:
ADMITTING PHYSICAL EXAM:
GENERAL - well-appearing woman complaining of RLQ and right 
flank pain and itchiness in vulva.
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear
NECK - supple, no JVD, no carotid bruits
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2
ABDOMEN - NABS+. She is soft and nondistended. She is tender to 
light and deep palpation in the RLQ and right flank. CVA 
tenderness is not present. No masses/HSM. No rebound guarding.
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs)
LYMPH - no cervical LAD
NEURO - awake, A&Ox3, CNs II-XII focally intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact. Gait not assessed.
.
DISCHARGE PHYSICAL EXAM: Decreased tenderness to palpation of 
the RLQ and R flank compared with admission exam
Vitals: AFVSS
General: Patient lying in bed in no acute distress
HEENT: EOMI. PERRL. MMM. OP without erythema or exudate
CV: RRR. No M/R/G
LUNGS: Clear to auscultation bilaterally. No wheezes or crackles 
bilaterally. 
ABDOMEN: BS+. Soft. Non-distended. Tender to palpation in the 
RLQ and right flank. No rebound or guarding. 
GU: No flank tenderness bilaterally.
EXTREMITIES: No clubbing, cyanosis, or edema bilaterally. WWP. 
NEURO: CN ___ intact. Muscle strength ___ throughout. Sensation 
to light touch grossly intact.

 
Pertinent Results:
ADMISSION LABS:
.
___ 12:15PM   GLUCOSE-104* UREA N-13 CREAT-1.0 SODIUM-139 
POTASSIUM-4.9 CHLORIDE-100 TOTAL CO2-30 ANION GAP-14
___ 12:15PM URINE  HOURS-RANDOM
___ 12:15PM URINE  UCG-NEGATIVE
___ 12:15PM   WBC-15.4*# RBC-5.45* HGB-15.3 HCT-41.9 
MCV-77* MCH-28.0 MCHC-36.4* RDW-14.1
___ 12:15PM   NEUTS-77.3* LYMPHS-17.5* MONOS-3.6 EOS-1.4 
BASOS-0.3
___ 12:15PM   PLT COUNT-265
___ 12:15PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-TR BILIRUBIN-SM  UROBILNGN-4* PH-6.0 LEUK-MOD
___ 12:15PM URINE  RBC-5* WBC-24* BACTERIA-FEW YEAST-NONE 
EPI-2
___ 12:15PM URINE  HYALINE-3*
.
DISCHARGE LABS:
.
___ 01:05PM BLOOD WBC-10.1 RBC-5.11 Hgb-14.8 Hct-39.4 
MCV-77* MCH-28.9 MCHC-37.5* RDW-14.7 Plt ___
IMAGING:
. 
RENAL ULTRASOUND:
FINDINGS: The right kidney measures 12.3 cm in its long axis. 
The left
kidney measures 12.4 cm in its long axis. Neither kidney 
demonstrates stones, masses, or hydronephrosis. No perinephric 
fluid collection is noted. The transverse and sagittal views of 
the bladder demonstrat it to be partially decompressed with no 
overt abnormality.
IMPRESSION: No hydronephrosis or perinephric fluid collection.

 
Brief Hospital Course:
#Urinary tract infection: On presentation the patient had 
tenderness to palpation of the RLQ and right flank. UA and 
urinary culture was obtained in the ED. The patient's symptoms 
were thought to be due to her previously diagnosed UTI (see 
previous hospital discharge). However, pyelonephritis was 
considered as a cause given the presence of flank pain. She was 
started on IV ciprofloxacin given previous culture data out of 
concern that her persistent/worsening pain symptoms represented 
treatment failure from potential poor oral absorption.  The 
patient never had costovertebral angle tenderness or fevers 
through her hospital course. She had a repeat renal U/S that 
showed no perinephric fluid collection and no stones. Urine 
culture was finalized on day of discharge and returned negative. 
She was discharged home with another 8-day course of 
Ciprofloxacin given the presence, but improvement in her 
RLQ/right flank pain and mildly positive UA in the ED.
.
#Pain control. Pain regimen at home was unclear. Patient 
presented to the hospital taking Methadone as needed for pain, 
though patient reports taking this medication sporadically. 
Methadone was not continued through the admission. Her pain was 
adequately controlled on regimen of 10 Oxycontin BID and 10mg 
Oxycodone PRN q4hours and Acetaminophen 650mg standing. 
Evaluation of her pain regimen revealed patient was taking 20 mg 
of methadone and five ___ Percocets all at once in the morning 
with poor pain control.  Counseled on appropriate dosing and 
discharged patient on 5 mg methadone BID with 5 mg oral 
oxycodone every six hours as needed for pain with standing 1000 
mg acetaminophen every six hours, with follow up with her PCP 
for evaluation of pain control.  Told NOT to take home Percocet 
while taking acetaminophen, and counseled on sedating effects of 
narcotics/not to drive while on this medication.

CHRONIC ISSUES:
#Hypertension. Patient remained normotensive through the 
admission. Her home hydrochlorathiazide and verapamil were 
continued.
.
#GERD: Home omeprazole was continued. 
.
#Asthma. No recent flares. Continued home Advair diskus with PRN 
albuterol available. 
.
#Depression/Mood disorder. Major depressive disorder per 
psychiatry evaluation in ___. Patient had a flat affect and 
seemed removed from her situation. She denied suicidal and 
homicidal ideation. Note of several psychosocial stressors and 
recent possible abuse by boyfriend in ___. Home mirtazapine was 
continued through the hospitalization. Follow-up with psychiatry 
was made for major depressive disorder. 
.
#Smoking cessation. Patient does not use nicotine gum, though 
she has been prescribed in the past. Lozenge was available to 
the patient in hospital to avoid tobacco withdrawal. Patient was 
re-offered nicotine patch, gun, and lozenge, but she refused. 
.
#Vulvar Prurigo Nodularis. Patient with a history of multiple 
itchy lesions on vulva that she has had for years. Home 
betamethasone and Mupirocin were continued through the 
hospitalization.
.
Transition of Care:
- pain management with methadone. Perhaps PCP and patient should 
enter narcotics contract.
- follow-up with psychiatry for management of major depressive 
disorder. 
 
Medications on Admission:
ALBUTEROL SULFATE [PROAIR HFA] - 90 mcg HFA Aerosol Inhaler - 2
(Two) puffs orally every 4 to 6 hours as needed
BETAMETHASONE DIPROPIONATE - 0.05 % Cream - apply bid twice a 
day
as needed for itching
BUPROPION HCL - 150 mg Tablet Extended Release - 1 Tablet(s) by
mouth for 3 days then bid stop smokinbg after 10 days
FLUTICASONE-SALMETEROL [ADVAIR DISKUS] - 100 mcg-50 mcg/Dose 
Disk
with Device - 1 (One) puff inhaled twice daily
HYDROCHLOROTHIAZIDE - 25 mg Tablet - 1 Tablet(s) by mouth once a
day ok to give eventhough patient has sulfa allergy
HYDROCORTISONE VALERATE - 0.2 % Cream - apply to itchy vulva
twice a day
IBUPROFEN - 600 mg Tablet - 1 Tablet(s) by mouth three times a
day as needed for pain Same as MOTRIN
METHADONE - 5 mg Tablet - 1 Tablet(s) by mouth twice a day as
needed for pain
MIRTAZAPINE - 30 mg Tablet - one Tablet(s) by mouth at bedtime
MUPIROCIN - 2 % Ointment - apply small amount twice a day do 
this
x 14 days
ONDANSETRON HCL - 4 mg Tablet - 1 Tablet(s) by mouth before
medications
OXYCODONE-ACETAMINOPHEN - 5 mg-325 mg Tablet - 2 Tablet(s) by
mouth three times a day as needed for pain
VERAPAMIL - 180 mg Tablet Extended Release - 1 Tablet(s) by 
mouth
once a day for pressure
OMEPRAZOLE MAGNESIUM [PRILOSEC OTC] - 20 mg Tablet, Delayed
Release (E.C.) - 1 Tablet(s) by mouth once a day for acid
SKIN CLEANSER, GENERAL -   Cleanser - use in genital area twice 
a
day

 
Discharge Medications:
1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q4H (every 4 hours) as needed for SOB.  
2. mirtazapine 15 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
3. verapamil 180 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO ONCE DAILY ().  
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
6. fluticasone-salmeterol 100-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
7. betamethasone dipropionate 0.05 % Cream Sig: One (1) Appl 
Topical BID (2 times a day) as needed for itching.  
8. hydrocortisone valerate 0.2 % Cream Sig: One (1) Appl Topical 
BID (2 times a day) as needed for itchy vulva.  
9. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 8 days.
Disp:*17 Tablet(s)* Refills:*0*
10. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H 
(every 4 hours) as needed for pain.  
11. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
13. Zofran 8 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea for 10 days.
Disp:*30 Tablet(s)* Refills:*0*
14. methadone 5 mg Tablet Sig: One (1) Tablet PO twice a day: DO 
NOT DRINK ALCOHOL ON THIS MEDICATION.  DO NOT DRIVE ON THIS 
MEDICATION UNTIL YOU ARE USED TO ITS EFFECTS AS IT MAY CAUSE 
SEDATION/RESPIRATORYSUPRESSION. Tablet(s) 
15. oxycodone 5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain: DO NOT DRINK ALCOHOL ON THIS 
MEDICATION.  DO NOT DRIVE ON THIS MEDICATION UNTIL YOU ARE USED 
TO ITS EFFECTS AS IT MAY CAUSE SEDATION/RESPIRATORYSUPRESSION.
Disp:*28 Tablet(s)* Refills:*0*
16. Miralax 17 gram Powder in Packet Sig: One (1)  PO once a day 
as needed for constipation.
Disp:*30 PACKETS* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Cystitis
.
Secondary diagnoses:
HTN
asthma
Depression 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
It was a pleasure taking care of your during your most recent 
hospitalziation at ___. You 
were hospitalized because of right-sided abdominal and flank 
pain thought to be due to your underlying urinary tract 
infection. You were treated briefly with IV antibiotics. You are 
being discharged on oral medications. You were also treated for 
your pain, and during this hospitalization we achieved pain 
control. 
.
Please take your medications as prescribed. The following 
medication changes were made during this admission:
- CHANGED:
**Continue taking Ciprofloxacin 500mg orally twice a day for 8 
more days. A prescriiption has been given to you. 
**Stop taking your methadone the way you were.  Instead, please 
take HALF the amount of methadone you were taking, divided into 
twice daily dosing.  This comes out to 5 mg of methadone (1 
tablet), every 12 hours STANDING DOSE.
.
- STOPPED:
**Stop taking your PERCOCET.  Instead, we will prescribe you 
oxycodone.  Percocet contains oxycodone and acetaminophen (AKA 
Tyelenol).  It is importnat you DO NOT take Percocet while 
taking acetaminophen, as you can overdose and cause liver damage 
and death.
.
START:
** Oxycodone 5 mg every 6 hours as needed for pain.
** Acetaminophen (AKA Tyelnol) Extra strength (500 mg) 2 tablets 
by mouth every 6 hours as needed for pain (Do not exceed 4000mg 
a day).
.
Please keep all of your follow-up appointment. Please make a 
follow-up appointment to follow-up with your primary care doctor 
in 1 week from discharge from the hospital. We have also made a 
psychiatry appointment for you following your discharge from 
this hospitalization to help you with your mood.  
 
Followup Instructions:
___